Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"Last time I couldn't take gen chem...this time I couldn't take 
gen chem because of my family."

 
Major Surgical or Invasive Procedure:
None 
 
History of Present Illness:
This is a ___ man with a previous hospitalization for SI, PTSD, 
and an unclear mood disorder who brings himself to the ED for 
"racing thoughts, disorganization, and lack of motivation" 
attributed to his stress around his general chemistry course.
. 
Upon initial interview in the ED with Dr. ___, patient 
was extremely disorganized, making loose associations, had a 
flight of ideas, and with pressured speech. He began with an 
attempt to compensate for his thought process through a "2 
sentence summary" and proceeded to speak on the following 
topics. On his illness: He acknowledges that he has a mental 
illness and is actively seeking help: "I feel like I finally 
have options with the medical resources available". Willing to 
pay the money to get another "neuropsychological test" and 
treatment. In regards to his mother, Mr. ___ feels that 
his mother manipulates him. He's become paranoid that she is 
attempting to dismiss (or hide) his mental illness by telling 
others he's doing fine and a "straight A student". He has 
therefore been collecting collateral by "talking to everyone to 
make it clear I'm unhealthy" so that his
mother won't manipulate him anymore. He needs this evidence 
before he "talks to a lawyer against his mother". He was 
particularly hurt when he was labeled as dependent on his mother 
and has been working to "prove he exists outside of his mother". 
He also feels he manipulated her boss (her fiancé) to marry her. 
Patient went on to report e is very suspicious of his mother's 
fiancé and lists reasons why his mother ___ be with him 
such as "his first wife committed suicide" and "he married his 
second wife who was already married to his friend". He also 
describes him as manipulate around his business practices in 
___. Patient went onto state that he's very upset at his 
father and lists a long list of reasons. He also mentions he 
believes his father has schizophrenia but won't take treatment. 
. 
In regards to his psychiatrist, patient stated he has been 
seeing Dr. ___ most of his time at ___. He has tremendous 
trust in her and asks us to have any medications approved by 
her. He has also done extensive research into her. Searching for 
her on PubMed and finding her on Facebook. He discovered that 
she's married and has children which really upset him because he 
has stated that he never wants to get married and hates kids and 
will never have kids. He also feel horrible for taking up so 
much of her time because "he knows she
has many other patients. 30patients. Including geriatric 
patients. I want geriatric patients to get help too". Mr. 
___ stated he's been doing a lot of research on 
psychiatric diseases. He states "there are other children" who 
are suffering. He has also done "research to prevent stress".
. 
Patient reported that at school, this is his second attempt at 
general chemistry (first attempt led to his first admission). He 
states he wasn't able to study for his chemistry exam and says 
he "can't read like this" because he's unable to concentrate ___ 
"racing thoughts, disorganization, and lack of motivation". He 
attempted to increase his focus by dropping his only other 
course at ___--a masculinity course--but is still doing poorly in 
chemistry. He
then explains why he likes chemistry and begins making loose 
associations between water and the ozone layer. He recently 
emailed the ___ president asking for "a pro-rated tuition" given 
this will be his second year without meaningful progress. 
. 
Sleep: He states that he only had 3 hours of sleep yesterday and 
5hours the night before. He says he "hates falling asleep" 
because of auditory hallucinations in which he hears "things not 
following noun and verb agreements". He endorses he has 
previously been diagnosed with hypnopompic hallucinations. 
. 
In regards to safety, patient reported he is "no longer 
suicidal". "Dr. ___ me realize I ___ be". He also 
endorses feeling there he is of "no use on this earth" and 
expressed an interest to donate all of his organs and die. He 
states he "doesn't want to hurt people" and "is not evil" He 
decided to come into the ED and seek help after calling his 
"mother's fiancé's accountant's oncologist" while he was at a 
meeting in ___ who convinced him to report to the ED. 
. 
Collateral from outpatient psychiatrist, Dr. ___: Patient has 
not had prior manic episode, but has had ___ day periods 
concerning for hypomania in the past, patient has contacted her 
multiple times in recent days, and she was very
concerned for acute mania and agrees that is the most likely 
diagnosis. In agreement with olanzapine treatment now, and with 
inpatient hospitalization."
.  
ED course: patient was in adequate behavioral control and did 
not require physical or chemical restraints. 
. 
Upon admission interview, which was limited due to significant 
disorganization, patient states that he came to the hospital 
because he "couldn't take gen chem."  He reports stress with his 
mother, and state that he was talking on the phone with her for 
hours, and so missed many hours of class. He asks, "am I still 
manic?" He is worried about returning to classes this fall. He 
discusses the ex-wife of his mother's boss, and that she is 
being "blamed." He states that he hopes to talk with a social 
worker about talking with his mother. 
. 
He announces to the team that he has realized that "suicide is 
not an option." He states that he never believed in mortality, 
then learned that humans are mortal. He states that he was 
"fantasizing" about donating his kidneys, heart, and pancreas so 
he would die and also be doing something charitable. He says 
that if he remained alive, his mother could continue to 
"manipulate" him, but if he died, his mother won't "go mad." 
. 
He states that in ___ he thought about committing suicide 
by taking buproprion and ativan. He thought about overdosing, 
duct taping his hands, then going into the river. He says that 
he planned to do this at sunset, but then "realized at 2 ___ that 
he wouldn't do it." He expresses that he is glad that he is in 
the hospital and would like treatment. 
.
Psychiatric ROS:
- Depression - denies depression, reports decreased sleep over 
the past few days stating that his "body won't let him sleep 
although he is psychologically tired," reported decreased 
concentration, OK appetite
- Psychosis - states that he has hypnagogic hallucinations where 
he "invents words...not by choice.. it doesn't follow grammar 
rules," states that in the ED the "wall jumped out at him," 
denies thought insertion or withdrawal 
- Mania- reports decreased sleep, stating that he has recently 
been giving away or selling many of his personal items
- Anxiety - reports panic attacks 
  
 
Past Medical History:
Past psychiatric history: Per Dr. ___ (___),
confirmed with patient and updated as relevant:
PAST PSYCHIATRIC HISTORY:
Hospitalizations: Hospitalized in ___ at ___
Current treaters and treatment: 
Psychiatrist: Dr. ___ ___
Medication and ECT trials: Abilify, Buproprion, Duloxetine, 
Self-injury: denies past SA, reports "scratching" previously
with intent to impact personal aesthetics
Harm to others :multiple physical alteractions with father 
Access to weapons: denies

PAST MEDICAL HISTORY:
PCP: in CA
- Thalassemia minor

 
Social History:
Substance use history: 
- Alcohol: denies 
- Illicits: denies  
- Tobacco: denies  
. 
Personal and Social History: Per OMR, patient: Parents are 
immigrants from ___, and he is an only child. Patient 
reported that his mother was pregnant with him and went to the 
___ for a business trip while working for the ___ 
___, ___, who later became her boyfriend/partner. 
The patient reported he was born in ___ until his mother's 
visa expired and he returned back to ___ as an infant. 
However, war then broke out and his father fled to ___, 
reportedly to avoid military duty, and his mother followed with 
him. Patient reported that they were able to move from ___ 
to ___ in ___ in ___, reportedly due to the 
help ___. In ___ they moved to ___. 
Around that time, patient reported they began to have financial 
issues after the family moved to an apartment they could not 
afford. At that time, he stated his father began drinking, 
smoking, was diagnosed with diabetes. Patient reports his father 
would push him and remembers at the age of ___ being pushed and 
unable to get up. In the fifth grade, patient stated that his 
father left the family following a car accident and after nearly 
burning a house down. Patient reported he did not have friends 
in childhood and that when he was in the ___ grade he began 
struggling more with depression, as he realized he missed his 
father and began having suicidal thoughts. Reported he met his 
first friend while he was in high school, after bonding over 
their experience with divorcing parents. The patient described 
his father as a "very ambitious" man, who used to work as a 
___ but has not worked for the past ___ years. Currently 
his father is living in ___, and the patient has reportedly 
had recent contact with him, which has been dysregulating. He 
also reports a tumultuous relationship with his mother, whom he 
describes as "optimistic... She thinks I can go to ___ and 
become an oncologist" as well as a tumultuous relationship with 
___, who provides for him financially but who does not 
seem to understand what he is going through ("he doesn't 
understand mental illness even though his first wife and one of 
his children committed suicide). No legal history, no access to 
guns 
 

 
Family History:
Family psychiatric history:
- Father with history of psychosis, alcohol use disorder. No 
known history of suicides 
 
Physical Exam:
___ 1409 Temp: 97.8 PO BP: 146/87 HR: 74 RR: 17 O2 sat: 99% 


General: young male, well-nourished, well-developed. Appears
stated age.
HEENT: Normocephalic, atraumatic. EOMI. 
Back: No significant deformity.
Lungs: CTA ___. No crackles, wheezes, or rhonchi.
CV: RRR, no murmurs/rubs/gallops. 
Abdomen: +BS, soft, nontender, nondistended. No palpable masses
or organomegaly.
Extremities: No clubbing, cyanosis, or edema.
Skin: No rashes, abrasions, scars, or lesions. 

Neurological:

Cranial Nerves:
-EOM: full
-Facial symmetry on eye closure and smile: symmetric
-Hearing bilaterally grossly normal 
-Phonation: normal
-Shoulder shrug: intact
-Tongue: midline

Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength: full power ___ throughout.
Gait: Steady. Normal stance and posture. No truncal ataxia.

Cognition: 
Wakefulness/alertness: awake and alert
Attention: intact to interview
Orientation: oriented to person, place, situation
Executive function (go-no go, Luria, trails, FAS): not tested
Memory: intact to recent and past history
Fund of knowledge: consistent with education
Calculations: not assessed
Abstraction: not assessed
Visuospatial: not assessed
Speech: hyperverbal but interruptible, normal volume 
Language: native ___ speaker, no paraphasic errors,
appropriate to conversation

Mental Status:
Appearance: No apparent distress, appears stated age, well
groomed, appropriately dressed
Behavior: engaged, friendly, appropriate eye contact, mild
psychomotor agitation 
Mood and Affect: "good" / expansive 
Thought Process: disorganized 
Thought Content: states that he realized that "suicide is not an
option." Denies HI. Reports that he saw a "wall jumped out at
him," some paranoia about his mother, denies thought
insertion/withdrawal 
Judgment and Insight: poor/poor

 
Pertinent Results:
Labs:
 ___: Na: 143 (New reference range as of ___
 ___: K: 4.5 (New reference range as of ___
 ___: Cl: 104
 ___: CO2: 25
 ___: BUN: 13
 ___: Creat: 0.8
 ___: Glucose: 101* (If fasting, 70-100 normal, >125
provisional diabetes)
 
___: WBC: 7.3
 ___: HGB: 14.3
 ___: HCT: 44.6
 ___: Plt Count: 282
 ___: Urine Glucose (Hem): NEG
 ___: Urine Protein (Hem): NEG
 ___: Urine Bilirubin (Hem): NEG
 ___: Urobilinogen: NEG
 ___: Urine Ketone (Hem): NEG
 ___: Urine Blood (Hem): NEG
 ___: Urine Nitrite (Hem): NEG
 ___: Urine Leuks (Hem): NEG
 

-Urine tox: Negative for benzos, barbituates, opiates, cocaine,
amphetamine, and methadone.

-Serum tox: Negative for aspirin, ethanol, TCAs and
acetaminophen.

 
Brief Hospital Course:
This is a ___ single Caucasian man, currently an undergraduate at 
___, history of mood disorder s/p one prior 
psychiatric hospitalization at ___ in ___ for 
depression and SI, thalassemia minor, who self presented to 
___ ED for "racing thoughts, disorganization, and lack of 
motivation" with subsequent admission to ___ due to 
concerns for psychosis. 
. 
Initial examinations were notable for patient being extremely 
disorganized with looseness of associations, flight of ideas, 
pressured speech, with paranoia that his mother as attempting to 
dismiss his mental illness, resulting him in attempting to 
collect collateral by "talking to everyone to make it clear I'm 
unhealthy" so that his mother will not manipulate him anymore. 
Further history notable for apparent rapid decompensation after 
recently visiting his mother in ___ with subsequent 
decreased need for sleep, auditory hallucinations, significant 
anxiety, racing thoughts. Mental status examination notable for 
anxious appearing individual with rapid, pressured speech, 
flight of ideas, disorganized thought process, significant 
preoccupation with his mother and her engagement with her long 
time boyfriend. Patient has also been spending excessive amounts 
of money, including on $500 headphones, which he threw away 
after a few uses; patient also admitted to spending $100,000 in 
the past year on clothes and other items. Patient also endorsed 
suicidal ideation, stating he wants to donate his organs so he 
can die while doing something charitable. 
.
Diagnostically, etiology of presentation is not quite clear, 
although I do believe the patient meets criteria for mania with 
psychotic features at this time. I am concerned for an 
underlying neurodevelopmental/neurocognitive process as well, 
and I would recommend consideration of neuropsych testing when 
he has been stabilized more fully. Given his young age and 
possible family history of mental illness, a primary psychotic 
disorder remains on the differential at this time. Nothing in 
his medical history that would suggest an underlying medical 
condition is contributing to his current presentation. Patient 
denies drug use and tox screen was negative on admission-- I do 
not believe his presentation is secondary to substance use. 
.
#. Legal/Safety: patient admitted to ___ on a ___, upon admission he signed a conditional voluntary form, which 
was accepted. He maintained his safety throughout his 
hospitalization on 15 minute checks and did not require physical 
or chemical restraints. 
. 
#. Mania: as noted above 
- Patient was compliant in attending groups, where he 
participated appropriately. 
- Given good response, patient was initially continued on 
Zyprexa. However, given concern for weight gain, after 
discussion of the risks and benefits, we converted to Geodon 
which was titrated to 60 mg po bid. He tolerated this well 
without complaints of side effects. 
- After discussion of the risks and benefits, we also initiated 
lithium, initially at 450 mg po bid. Lithium level on this dose= 
0.3 mg and so this was increased to 600 mg po daily and 900 mg 
po qhs. Recommend recheck of trough level on ___. 
- For insomnia and anxiety, patient was started on Ativan 
titrated to 2 mg po qhs for insomnia and 1 mg po daily prn 
anxiety. He tolerated this well with improvement in his sleep 
and anxiety-- recommendation is to taper this off as tolerated 
and as clinically indicated
- In the setting of the stabilizing environment and initiation 
of the above medications, patient's condition improved. Although 
he continued to be intermittently anxious, he reported feeling 
better, denying depression, suicidal ideation, thoughts of self 
harm, AVH, paranoia throughout his hospitalization. Thought 
process was notably linear, goal and future oriented by time of 
discharge and he was amenable to following up with a partial 
program
- A family meeting was held with Mr. ___ mother, who 
came from ___ to support her son. We discussed the 
hospital course, treatment recommendations and  discharge 
planning, and his mother was supportive of the plan
- Prior to discharge, I also called Dr. ___ outpatient 
psychiatrist who agreed with the above assessment and plan. 
.
#. Medical: no acute medical issues during this hospitalization 
. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Ferrous Sulfate 325 mg PO DAILY 
RX *ferrous sulfate [FerrouSul] 325 mg (65 mg iron) 1 tablet(s) 
by mouth daily Disp #*30 Tablet Refills:*0 
2.  Lithium Carbonate SR (Lithobid) 900 mg PO QHS 
Lithobid SR  
3.  Lithium Carbonate 600 mg PO DAILY  
RX *lithium carbonate 300 mg ___ tablet(s) by mouth as directed 
Disp #*75 Tablet Refills:*0 
4.  LORazepam 2 mg PO QHS 
RX *lorazepam [Ativan] 1 mg ___ tab by mouth as directed Disp 
#*45 Tablet Refills:*0 
5.  LORazepam 1 mg PO DAILY PRN anxiety, agitation  Duration: 1 
Dose  
6.  ZIPRASidone Hydrochloride 60 mg PO BID 
RX *ziprasidone HCl [Geodon] 60 mg 1 capsule(s) by mouth twice a 
day Disp #*30 Capsule Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Bipolar disorder, most recent episode manic, with psychotic 
features 

 
Discharge Condition:
VS: 97.9   135/80   68   18    97%RA  
A/B appears stated age, slightly overweight, dressed in casual
clothing with adequate hygiene and grooming, somewhat anxious on
exam, no psychomotor agitation or retardation noted 
S: Slightly rapid rate, normal volume, normal prosody
M: 'good' 
A: anxious, restricted range, appropriate
TC: See above
TP: mostly linear, goal and future oriented 
C: Awake, alert, responds to questions appropriately
I/J: Fair/fair

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___